US05606040
A 150 μg portion of LL-E33288γ1 -I in 1 ml of acetonitrile was treated with 50 μl of a 1μ mole/ml solution of t-butyl mercaptan in acetonitrile. After 21/4 hours, the reaction was complete, giving the t-butyl disulfide of LL-E33288γ1 -I.

reactant | t-butyl mercaptan | C(C)(C)(C)S | C4H10S
solvent | acetonitrile | 1 ml | C(C)#N | C2H3N
product | t-butyl disulfide | C(C)(C)(C)SSC(C)(C)C | C8H18S2
